US06861440B2
To a solution of 2-(3-bromo-4-oxo-pentyl)-isoindole-1,3-dione (12.4 g) [CAS 112357-34-3] in abs. DMF (50 ml) was added benzamidine 85% (5.65 g) and potassium carbonate (11.03 g). The reaction mixture was stirred at 80° C. for 4 h, concentrated under vacuum. To the residue was added ice/water, and the mixture was extracted with ethyl acetate. The organic phase was washed with water and brine, dried over magnesium sulphate and concentrated. The crude product was purified by chromatography on silica gel using methylene chloride/methanol 5% and 10% as eluent to obtain 2-[2-(5-methyl-2-phenyl-1H-imidazol-4-yl)-ethyl]-isoindole-1,3-dione (5.5 g) as a yellow foam.

reactant | 2-(3-bromo-4-oxo-pentyl)-isoindole-1,3-dione | 12.4 g | BrC(CCN1C(C2=CC=CC=C2C1=O)=O)C(C)=O | C13H12BrNO3
reactant | benzamidine | 5.65 g | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | potassium carbonate | 11.03 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-[2-(5-methyl-2-phenyl-1H-imidazol-4-yl)-ethyl]-isoindole-1,3-dione | 5.5 g | CC1=C(N=C(N1)C1=CC=CC=C1)CCN1C(C2=CC=CC=C2C1=O)=O | C20H17N3O2
